US06900215B2
4-Fluoro-3-(pyridazin-4-yl)phenylboronic acid (100 mg, 0.46 mmol) was coupled to 2-(3-bromoimidazo[1,2-α]pyrimidin-7-yl)propan-2-ol (117 mg, 0.46 mmol) using the method in Example 1. Purification by chromatography on silica gel eluting with dichloromethane containing 5% methanol then trituration with diethyl ether gave 2-[3-(4-fluoro-3-(pyridazin-4-yl)phenyl)imidazo[1,2-α]pyrimidin-7-yl]propan-2-ol as a white solid: δH (400 MHz, CDCl3) 1.63 (6H, s), 7.11 (1H, d, J 7), 7.43-7.48 (1H, m), 7.64-7.69 (2H, m), 7.71-7.74 (1H, m), 7.88 (1H, s), 8.54 (1H, d, J 7), 9.33 (1H, dd, J 5 and 1), 9.46-9.47 (1H, m); m/z (ES+) 350 (M++H).

reactant | 4-Fluoro-3-(pyridazin-4-yl)phenylboronic acid | 0.46 mmol, 100 mg | FC1=C(C=C(C=C1)B(O)O)C1=CN=NC=C1 | C10H8BFN2O2
reactant | 2-(3-bromoimidazo[1,2-α]pyrimidin-7-yl)propan-2-ol | 0.46 mmol, 117 mg | BrC1=CN=C2N1C=CC(=N2)C(C)(C)O | C9H10BrN3O
product | 2-[3-(4-fluoro-3-(pyridazin-4-yl)phenyl)imidazo[1,2-α]pyrimidin-7-yl]propan-2-ol | FC1=C(C=C(C=C1)C1=CN=C2N1C=CC(=N2)C(C)(C)O)C2=CN=NC=C2 | C19H16FN5O
